* C:\Users\Carlos\Desktop\ITBA\3er año\1er cuatri\LABO\TP2\labelec-tp2\Simulaciones\EJ1\Draft1.asc
XU1 N002 N001 N003 opamp Aol=100K GBW=10Meg
XU2 N009 N010 N011 opamp Aol=100K GBW=10Meg
XU3 N004 N008 N005 opamp Aol=100K GBW=10Meg
XU4 N012 0 N006 opamp Aol=100K GBW=10Meg
R1 N003 N002 9k
R2 N002 N007 1k
R3 N007 N009 1k
R4 N009 N011 9k
R5 N004 N003 1k
R6 N008 N011 10k
R7 N012 N008 10k
R8 N005 N004 10k
R9 N007 N006 8k
V1 N001 0 SINE(0 100M 1K) AC 100m
V2 N010 0 SINE(0 90m 1k) AC 90m
;tran 0 100m 0 1u startup
.ac dec 1000 1 1meg
.backanno
.end
